US08957203B2
To a solution of (2S,4R)-tert-butyl 2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (1.3 g, 2.1 mmole) in DCM was added trifluoroacetic acid (TFA, 5 mL) at room temperature. The reaction mass was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure to get crude compound (2S,4R)—N-((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxamide (1.05 g, 97.2%) as a TFA salt. The crude compound was taken to the next step without further purification. MS: MS m/z 501.3 (M++1).

reactant | (2S,4R)-tert-butyl 2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 2.1 mmole, 1.3 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)OC1=NC=C(C2=CC=CC=C12)OC)C(=O)OC(C)(C)C | C29H36N4O8S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)—N-((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)-4-((4-methoxyisoquinolin-1-yl)oxy)pyrrolidine-2-carboxamide | 1.05 g, 97.2% | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1NC[C@@H](C1)OC1=NC=C(C2=CC=CC=C12)OC | C24H28N4O6S
